US08048878B2
Synthesis of methyl 4-(3-butenoyl)-3-(2-ethoxycarbonylvinyl)-5-(3,4,5-trifluorophenyl)piperazine-1-carboxylate
BOPCl (557 mg) was added to a solution of methyl 3-(2-ethoxycarbonylvinyl)-5-(3,4,5-trifluorophenyl)piperazine-1-carboxylate (422 mg), triethylamine (0.61 mL), and vinylacetic acid (0.19 mL) in THF (15 mL), and the reaction solution was stirred at room temperature for 20 hours. 1 N aqueous hydrochloric acid and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with saturated sodium bicarbonate water, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 643 mg of an E/Z isomer mixture crude product of the title compound. The property value of the compound is as follows.

reactant | BOPCl | 557 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | methyl 3-(2-ethoxycarbonylvinyl)-5-(3,4,5-trifluorophenyl)piperazine-1-carboxylate | 422 mg | C(C)OC(=O)C=CC1CN(CC(N1)C1=CC(=C(C(=C1)F)F)F)C(=O)OC | C17H19F3N2O4
reactant | vinylacetic acid | 0.19 mL | C(=C)CC(=O)O | C4H6O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.61 mL | C(C)N(CC)CC | C6H15N
product | methyl 4-(3-butenoyl)-3-(2-ethoxycarbonylvinyl)-5-(3,4,5-trifluorophenyl)piperazine-1-carboxylate | C(CC=C)(=O)N1C(CN(CC1C1=CC(=C(C(=C1)F)F)F)C(=O)OC)C=CC(=O)OCC | C21H23F3N2O5
